US05496843
2) 1-Nitro-4-phthalimidomethyl-2-trifluoromethanesulfonyloxybenzene
A mixture of 4-nitro-3-trifluoromethanesulfonyloxytoluene (5.7 g, 20 mmol), N-bromosuccinimide (5.7 g, 32 mmol), and benzoyl peroxide (1 g) in carbon tetrachloride (75 mL) was refluxed for 18 h. The insoluble material formed was removed by filtration and the filtrate was concentrated. The residue was dissolved in DMF (40 mL) and potassium phthalimide (2.6 g, 14 mmol) was added. The mixture was stirred for 5 h at room temperature, poured into brine, and extracted with a 1:1 mixture of toluene and ethyl acetate. The organic layers were washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 9:1 to 1:1 hexane/ethyl acetate to give 3.4 g of the title compound (39%): 1H NMR (CDCl3) δ8.14 (d, 1H, J=8.3 Hz), 7.86~7.91 (m, 2H), 7.75~7.79 (m, 2H), 7.63 (dd, 1H, J= 8.3, 1.6 Hz), 7.54 (d, 1H, J=1.6 Hz), 4.93 (s, 2H).

reactant | 4-nitro-3-trifluoromethanesulfonyloxytoluene | 20 mmol, 5.7 g | [N+](=O)([O-])C1=C(C=C(C=C1)C)OS(=O)(=O)C(F)(F)F | C8H6F3NO5S
reactant | N-bromosuccinimide | 32 mmol, 5.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | potassium phthalimide | 14 mmol, 2.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | carbon tetrachloride | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | brine | [Cl-].[Na+].O
product | 1-Nitro-4-phthalimidomethyl-2-trifluoromethanesulfonyloxybenzene | 3.4 g, 39% | [N+](=O)([O-])C1=C(C=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)OS(=O)(=O)C(F)(F)F | C16H9F3N2O7S
